US06794109B2
Preparation of 1-(2,2,2-Trifluoro-1-methoxymethoxy-1-trifluoromethylethyl)-4-vinylbenzene
A solution of 1,1,1,3,3,3-hexafluoro-2-(4-vinylphenyl)-2-propanol (5.00 g, 18.51 mmol) in THF (10 mL)was slowly added to a mixture of NaH (60% dispersion, 968 mg, 24.20 mmol), washed with pentane, and THF (50 mL). The reaction mixture was allowed to stir at room temperature for 1 h, then cooled to −78° C. using a dry ice/acetone bath followed by the addition of chloromethyl methyl ether (1.50 mL, 19.75 mmol) in THF (5 mL). The reaction mixture was allowed to slowly warm to room temperature overnight, quenched with H2O, concentrated, and partitioned between ether/H2O. The combined extracts were washed with saturated NaHCO3, brine, dried (Na2SO4), and concentrated to provide a crude oil. This material was purified by Kugelrohr distillation (bp 65-9° C., 1.3 mm), followed by column chromatography on silica gel using 50:1 hexane/ethyl acetate to provide 1.96 g (34%) of a colorless oil; 1H NMR (CDCl3) δ 7.60 (d, 2ArH), 7.50 (d, 2ArH), 6.75 (dd, CH=), 5.85 (dd ═CHH), 5.40 (dd ═CHH), 4.85 (s, CH2), 3.60 (s, Me).

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-vinylphenyl)-2-propanol | 18.51 mmol, 5.00 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C=C)(F)F | C11H8F6O
reactant | NaH | 24.20 mmol, 968 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 19.75 mmol, 1.50 mL | COCCl | C2H5ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,2,2-Trifluoro-1-methoxymethoxy-1-trifluoromethylethyl)-4-vinylbenzene | 1.96 g, 34% | FC(C(C(F)(F)F)(OCOC)C1=CC=C(C=C1)C=C)(F)F | C13H12F6O2
